US05705499
d) N-(2,6-Dichloro-3-pyridinyl)-5-bromo-2-ethylamino-3-pyridinecarboxamide
To a solution of N-(2,6-dichloro-3-pyridinyl)-2-ethylamino-3-pyridinecarboxamide (7.4 g, 24 mmol) and potassium acetate (2.8 g, 28 mmol) in 90 mL of acetic acid was added bromine (1.2 mL, 23 mmol). After 15 min, the reaction mixture was diluted with water and the precipitate was collected by suction filtration to give 8.2 g of the title compound, suitable for use in the next reaction.

reactant | N-(2,6-dichloro-3-pyridinyl)-2-ethylamino-3-pyridinecarboxamide | 24 mmol, 7.4 g | ClC1=NC(=CC=C1NC(=O)C=1C(=NC=CC1)NCC)Cl | C13H12Cl2N4O
reactant | potassium acetate | 28 mmol, 2.8 g | C(C)(=O)[O-].[K+]
reactant | bromine | 23 mmol, 1.2 mL | BrBr | Br2
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(2,6-Dichloro-3-pyridinyl)-5-bromo-2-ethylamino-3-pyridinecarboxamide | 8.2 g | ClC1=NC(=CC=C1NC(=O)C=1C(=NC=C(C1)Br)NCC)Cl | C13H11BrCl2N4O
